US05198571
1-(allyloxy)-2,3-dihydroxy benzene
A mixture of 3.8 g of pyrogallol, 76 ml of anhydrous dimethylformamide and 2.72 g of sodium hydride in suspension at 53% in oil was stirred for 3 hours under an inert gas atmosphere and then 5.27 ml of triethyl borate were added, followed by stirring for 30 minutes. Then, 2.6 ml of allyl borate in solution in 26 ml of dimethylformamide were added over 45 minutes and the mixture was stirred for 16 hours and poured into water-ice-N hydroohloric acid mixture. Extraction took place with ethyl acetate and the crude product was chromatographed on silica, eluting with a cyclohexane-ethyl acetate mixture (7-3) to obtain 3.8 g of the expected product in the form of white crystals (Yield: 76.3%).

reactant | pyrogallol | 3.8 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | sodium hydride | 2.72 g | [H-].[Na+]
reactant | triethyl borate | 5.27 ml | B(OCC)(OCC)OCC | C6H15BO3
reactant | allyl borate | 2.6 ml | B(OCC=C)([O-])[O-]
solvent | dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 76 ml | CN(C=O)C | C3H7NO
product | 1-(allyloxy)-2,3-dihydroxy benzene | 3.8 g | C(C=C)OC1=C(C(=CC=C1)O)O | C9H10O3
